US07531532B2
[6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-yl]carbamic acid phenyl ester (190 mg) was dissolved in N,N-dimethylformamide (2 ml), and then 4-amino-1-methylpiperidine (176 mg)-N,N-dimethylformamide (3 ml) was added thereto, followed by stirring for 4 hrs. The reaction mixture was partitioned between ethyl acetate (30 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (20 ml), water (20 ml) and brine (20 ml), and dried over anhydrous sodium sulfate. The solvent was evaporated to give a crude product of 1-[6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]-3-(1-methylpiperidin-4-yl)urea (200 mg). The crude product (200 mg) was dissolved in methanol (5 ml)-tetrahydrofuran (5 ml), and then 10% palladium carbon (109 mg) was added thereto under a nitrogen atmosphere, followed by replacing with hydrogen inside the system and stirring overnight. After replacing with nitrogen inside the system, the catalyst was filtered, and washed with ethanol. The filtrate was concentrated under a reduced pressure to give a residue, to which diethyl ether (2.5 ml)-hexane (5.0 ml) was added to suspend. The solid was filtered off, and dried under aeration to provide a crude product of 1-[6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]-3-(1-methylpiperidin-4-yl)urea (183 mg).

reactant | [6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-yl]carbamic acid phenyl ester | 190 mg | C1(=CC=CC=C1)OC(NC1=NC=NC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F)=O | C17H11FN4O5
reactant | 4-amino-1-methylpiperidine | 176 mg | NC1CCN(CC1)C | C6H14N2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-[6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]-3-(1-methylpiperidin-4-yl)urea | 200 mg | FC1=C(OC2=CC(=NC=N2)NC(=O)NC2CCN(CC2)C)C=CC(=C1)[N+](=O)[O-] | C17H19FN6O4
